US04933505
n-BuLi (1.6 M in hexane, 6.24 mL) was added dropwise with stirring to a solution of nitropropane (0.9mL, 10mmol) in THF (12 mL) at -78° C. After 15 minutes a solution of TiCl3 (OPriso) (5 mmol) in THF (2 mL) and CH2Cl2 (3 mL) solution was added. After a further 15 minutes 4-nitrobenzaldehyde (0.75 mL, 5 mmol) in CH2Cl2 (4 mL) was added and the mixture allowed to warm up to room temperature (~30 min). Stirring was continued for a further 3.5 hours at room temperature and the mixture was quenched with an aqueous slurry of disodium EDTA (1.86 g, 5mmol) and extracted with Et2O (3×75 mL). The combined Et2O fractions were washed with dilute hydrochloric acid (2 M, 75 mL), aqueous sodium bicarbonate (75 mL) and water (75 mL), dried and evaporated in vacuo. Flash column chromatrography [Si2, hexane:Et2O, 3:1 v/v] gave 1-(4-nitrophenyl)-2-nitro-butan-1-ol (0.86 g, 72%) Erythro:threo ratio 7:1.

reactant | n-BuLi | 1.6 M, 6.24 mL | [Li]CCCC
reactant | nitropropane | 10mmol, 0.9mL | [N+](=O)([O-])CCC | C3H7NO2
reactant | 4-nitrobenzaldehyde | 5 mmol, 0.75 mL | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | disodium EDTA | 5mmol, 1.86 g | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-nitrophenyl)-2-nitro-butan-1-ol | 0.86 g, 72% | [N+](=O)([O-])C1=CC=C(C=C1)C(C(CC)[N+](=O)[O-])O | C10H12N2O5
